US07968570B2
A mixture of 2-bromomethyl-6-chloro-benzoic acid methyl ester (0.132 g, 0.5 mmol), 4-chloro-benzylamine (0.073 g, 0.6 mmol), and K2CO3 (0.207 g, 1.5 mmol) in toluene (4 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 7-chloro-2-(4-chloro-benzyl)-2,3-dihydro-isoindol-1-one (0.116 g, 79%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.24 (s, 2H), 4.74 (s, 2H) 7.24-7.46 (m, 7H). GC-MS: m/z 291 (M)+.

reactant | 2-bromomethyl-6-chloro-benzoic acid methyl ester | 0.5 mmol, 0.132 g | COC(C1=C(C=CC=C1Cl)CBr)=O | C9H8BrClO2
reactant | 4-chloro-benzylamine | 0.6 mmol, 0.073 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | K2CO3 | 1.5 mmol, 0.207 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 7-chloro-2-(4-chloro-benzyl)-2,3-dihydro-isoindol-1-one | 0.116 g, 79% | ClC=1C=CC=C2CN(C(C12)=O)CC1=CC=C(C=C1)Cl | C15H11Cl2NO
